US06900153B2
Synthesis of 2,6-Bis-[1-(4-hydroxy-2-methylphenylimino)ethyl]pyridine
4-Amino-m-cresol (450 mg) and 300 mg 2,6-diacetylpyridine were dissolved in 20 ml methanol. Four drops of formic acid were added and the solution was stirred for 2 d. The yellow solid was washed with cold methanol. Yield: 600 mg. 1H-NMR (200 MHz, CDCl3): 8.35 (d, 2H), 7.85 (t, 1H), 6.53-6.74 (6 H), 4.50 (s, 2H), 2.32 (s, 6H), 2.09 ppm (s, 6H)

reactant | 4-Amino-m-cresol | 450 mg | NC=1C(=CC(=CC1)O)C | C7H9NO
reactant | 2,6-diacetylpyridine | 300 mg | C(C)(=O)C1=NC(=CC=C1)C(C)=O | C9H9NO2
solvent | methanol | 20 ml | CO | CH4O
catalyst | formic acid | Four drops | C(=O)O | CH2O2
product | 2,6-Bis-[1-(4-hydroxy-2-methylphenylimino)ethyl]pyridine | OC1=CC(=C(C=C1)N=C(C)C1=NC(=CC=C1)C(C)=NC1=C(C=C(C=C1)O)C)C | C23H23N3O2
